US08957068B2
To a solution of (R,E)-N-(2-fluoro-4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide (7.3 g, 24.7 mmol) in CH2Cl2 (247 mL) cooled to 0° C. (water/ice bath) under nitrogen, was added 3M methyl magnesium bromide (33 mL, 99 mmol) in Et2O. Reaction mixture allowed to stir for 30 min at 0° C., then gradually allowed to warm to room temperature and stirred for 1 hour at room temperature. Reaction mixture was cooled to 0° C. then quenched with the slow addition of a saturated solution of NH4Cl. Aqueous mixture extracted with EtOAc. Organic phases combined, washed with water, brine, dried (Na2SO4), filtered and concentrated onto silica gel. Silica gel column chromatography (EtOAc/Heptane 40 to 100%) provided (R)—N—((S)-1-(2-fluoro-4-(trifluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide (4.68 g, 15.0 mmol, 61% yield) as a white crystalline solid. 1H NMR (400 MHz, CDCL3) δ 1.22 (s, 9H) 1.60 (d, J=6.80 Hz, 3H) 3.38 (d, J=4.01 Hz, 1H) 4.87-4.97 (m, 1H) 7.33 (d, J=10.32 Hz, 1H) 7.39-7.45 (m, 1H) 7.49-7.55 (m, 1H). LCMS m/z 312.0 (M+H)+, Rt 0.92 min.

reactant | (R,E)-N-(2-fluoro-4-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide | 24.7 mmol, 7.3 g | FC1=C(\C=N\[S@](=O)C(C)(C)C)C=CC(=C1)C(F)(F)F | C12H13F4NOS
reactant | methyl magnesium bromide | 99 mmol, 3M, 33 mL | C[Mg]Br
reactant | EtOAc Heptane | CCOC(=O)C.CCCCCCC
solvent | CH2Cl2 | 247 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | (R)—N—((S)-1-(2-fluoro-4-(trifluoromethyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 15.0 mmol, 4.68 g, 61% yield | FC1=C(C=CC(=C1)C(F)(F)F)[C@H](C)N[S@](=O)C(C)(C)C | C13H17F4NOS
